US07354932B2
A solution of N-(4-acetoxy-2-hydroxybutyl)phthalimide (10.2 g, 36.8 mmol) in CH2Cl2 (185 mL) at 0° C. was treated with molecular seives (18.4 g), N-methylmorpholine oxide (6.46 g, 55.2 mmol), and tetrapropylammonium perruthenate (1.29 g, 3.7 mmol). The mixture was allowed to warm to room temperature over 20 minutes and immediately filtered through silica (using 500 g SiO2 in a coarse glass flitted funnel). The silica was washed with excess diethyl ether (2 L) and concentrated under reduced pressure to afford the desired N-(4-acetoxy-2-oxobutyl)phthalimide (9.22 g, 92%).

reactant | N-(4-acetoxy-2-hydroxybutyl)phthalimide | 36.8 mmol, 10.2 g | C(C)(=O)OCCC(CN1C(C=2C(C1=O)=CC=CC2)=O)O | C14H15NO5
reactant | N-methylmorpholine oxide | 55.2 mmol, 6.46 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | CH2Cl2 | 185 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrapropylammonium perruthenate | 3.7 mmol, 1.29 g | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | N-(4-acetoxy-2-oxobutyl)phthalimide | 9.22 g, 92% | C(C)(=O)OCCC(CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C14H13NO5
